US08754089B2
A solution of 2-(1-(6-methyl-4-oxo-3-phenyl-4H-pyrido[1,2-a]pyrimidin-2-yl)-ethyl)isoindoline-1,3-dione (0.30g, 0.73 mmol) and hydrazine monohydrate (0.36 mL, 7.3 mmol) in EtOH (14.7 mL) was stirred at 90° C. for 1 h. The mixture was loaded onto silica gel and purified by MPLC (eluted with a gradient of 0-100% (1:10:90 NH4OH:MeOH:DCM solution) in DCM) to afford 2-(1-aminoethyl)-6-methyl-3-phenyl-4H-pyrido[1,2-a]pyrimidin-4-one as a light yellow foam. Mass Spectrum (ESI) m/e=280.3 (M+1).

reactant | 2-(1-(6-methyl-4-oxo-3-phenyl-4H-pyrido[1,2-a]pyrimidin-2-yl)-ethyl)isoindoline-1,3-dione | 0.73 mmol, 0.30g | CC1=CC=CC=2N1C(C(=C(N2)C(C)N2C(C1=CC=CC=C1C2=O)=O)C2=CC=CC=C2)=O | C25H19N3O3
reactant | hydrazine monohydrate | 7.3 mmol, 0.36 mL | O.NN
solvent | EtOH | 14.7 mL | CCO | C2H6O
product | 2-(1-aminoethyl)-6-methyl-3-phenyl-4H-pyrido[1,2-a]pyrimidin-4-one | NC(C)C=1N=C2N(C(C1C1=CC=CC=C1)=O)C(=CC=C2)C | C17H17N3O
